US06680329B2
5.7. (S)-N-[2-[[[4-(5-Amino-2-pyrazinyl)-1-[[4-(difluoromethylene)piperid-1-yl]carbonyl]butyl]amino]sulphonyl]-6-cyclopentylphenyl]propanamide hydrochloride
The process is performed in the same way as in Example 1.6, and, starting with 1.11 g (3.0 mmol) of 2-[bis(1-oxopropyl)amino]-3-cyclopentylbenzenesulphonyl chloride and 1.21 g (3.0 mmol) of (S)-1-[2-amino-5-(5-amino-2-pyrazinyl)-1-oxopentyl]-4-(difluoromethylene)piperidine hydrochloride (2:1), 1.3 g of (S)-N-[2-[[[4-(5-amino-2-pyrazinyl)-1-[[4-(difluoromethylene)piperid-1-yl]carbonyl]butyl]amino]sulphonyl]-6-cyclopentylphenyl]propanamide are obtained.

reactant | 2-[bis(1-oxopropyl)amino]-3-cyclopentylbenzenesulphonyl chloride | 3.0 mmol, 1.11 g | O=C(CC)N(C1=C(C=CC=C1C1CCCC1)S(=O)(=O)Cl)C(CC)=O | C17H22ClNO4S
reactant | (S)-1-[2-amino-5-(5-amino-2-pyrazinyl)-1-oxopentyl]-4-(difluoromethylene)piperidine hydrochloride | 3.0 mmol, 1.21 g | Cl.N[C@H](C(=O)N1CCC(CC1)=C(F)F)CCCC1=NC=C(N=C1)N
reactant | (S)-N-[2-[[[4-(5-amino-2-pyrazinyl)-1-[[4-(difluoromethylene)piperid-1-yl]carbonyl]butyl]amino]sulphonyl]-6-cyclopentylphenyl]propanamide | 1.3 g | NC=1N=CC(=NC1)CCC[C@@H](C(=O)N1CCC(CC1)=C(F)F)NS(=O)(=O)C1=C(C(=CC=C1)C1CCCC1)NC(CC)=O | C29H38F2N6O4S
product | (S)-N-[2-[[[4-(5-Amino-2-pyrazinyl)-1-[[4-(difluoromethylene)piperid-1-yl]carbonyl]butyl]amino]sulphonyl]-6-cyclopentylphenyl]propanamide hydrochloride | Cl.NC=1N=CC(=NC1)CCC[C@@H](C(=O)N1CCC(CC1)=C(F)F)NS(=O)(=O)C1=C(C(=CC=C1)C1CCCC1)NC(CC)=O | InChI=1S/C29H38F2N6O4S.ClH/c1-2-26(38)35-27-22(19-7-3-4-8-19)10-6-12-24(27)42(40,41)36-23(11-5-9-21-17-34-25(32)18-33-21)29(39)37-15-13-20(14-16-37)28(30)31;/h6,10,12,17-19,23,36H,2-5,7-9,11,13-16H2,1H3,(H2,32,34)(H,35,38);1H/t23-;/m0./s1
